US05103013
Methyl 2-(1,3-dithietan-2-ylidene)-2-[N-(4-fluorophenyl)carbamoyl]acetate
A mixture of methyl 2-[N-(4-fluorophenyl)carbamoyl]acetate (10 g), carbon disulfide (3.2 ml) and acetone (200 ml) was cooled to 5°-10° C., to which 50% aqueous sodium hydroxide (4.2 ml) was added dropwise. The mixture was stirred at same temperature for 2 hrs, then dibromomethane (4 ml) was added dropwise and the reaction mixture was stirred at room temperature for 1 hr and refluxed for 2 hrs. The solid was removed by filtration and the filtrate was poured onto ice-water. The solid formed was filtered, and dissolved in methylene chloride. The solution was washed with 10% aqueous sodium hydroxide solution and water, then dried. The solvent was evaporated and the residue was purified with ethyl acetate and ethyl ether to give the titled compound as a white solid. (8.5 g, 60%).

reactant | methyl 2-[N-(4-fluorophenyl)carbamoyl]acetate | 10 g | FC1=CC=C(C=C1)NC(=O)CC(=O)OC | C10H10FNO3
reactant | carbon disulfide | 3.2 ml | C(=S)=S | CS2
reactant | sodium hydroxide | 4.2 ml | [OH-].[Na+]
reactant | dibromomethane | 4 ml | BrCBr | CH2Br2
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | Methyl 2-(1,3-dithietan-2-ylidene)-2-[N-(4-fluorophenyl)carbamoyl]acetate | S1C(SC1)=C(C(=O)OC)C(NC1=CC=C(C=C1)F)=O | C12H10FNO3S2
